US07868036B2
26 6-Bromo-3-(3-methoxypropyl)-[1,2,4]triazolo[4,3-a]pyridine
A mixture of 18.80 g of (5-bromopyridin-2-yl)hydrazine [77992-44-0] and 14.54 g of methyl 4-methoxybutyrate [29006-01-7] is heated to reflux over 16 hours. The reaction solution is subsequently cooled and purified by means of flash chromatography (SiO2 60F). The title compound is identified on the basis of the Rf value.

reactant | (5-bromopyridin-2-yl)hydrazine | 18.80 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | methyl 4-methoxybutyrate | 14.54 g | COCCCC(=O)OC | C6H12O3
product | 6-Bromo-3-(3-methoxypropyl)-[1,2,4]triazolo[4,3-a]pyridine | BrC=1C=CC=2N(C1)C(=NN2)CCCOC | C10H12BrN3O
